US04464387
1-phenyl-3-t-butyl hydantoin
A mixture of N-phenyl glycine (0.1 mole), t-butyl isocyanate (0.12 mole) and toluene (30 ml) was refluxed for 5 hours and then cooled. The product was collected by filtration and crystallized from ethanol to produce 0.06 mole of the aforedescribed product having a melting point of 116° C.

reactant | N-phenyl glycine | 0.1 mole | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | t-butyl isocyanate | 0.12 mole | C(C)(C)(C)N=C=O | C5H9NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-t-butyl hydantoin | 0.06 mole | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1)C(C)(C)C | C13H16N2O2
